US09085555B2
C. (2S,3S,4S)-3-allyloxy-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of NaH (60% in mineral oil, 8.6 mg, 0.215 mmol) in DMF (5 mL) cooled with an ice-bath and under argon was added (2S,3S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (70 mg, 0.179 mmol). The reaction mixture was stirred for 20 min before addition of allyl iodide (0.025 mL, 0.269 mmol) at 0° C. The reaction mixture was stirred for 30 min then quenched by addition of water and extracted with EtOAc (×2). The organic extracts were combined, washed with brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 3:2). MS (UPLC): 431.4/433.1 [M+H]+, 475.5/577.5 [M+HCOO]−; tR (HPLC conditions f): 2.29 min.

reactant | NaH | 0.215 mmol, 8.6 mg | [H-].[Na+]
reactant | (2S,3S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.179 mmol, 70 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)O)C(NCC1=C(C(=CC=C1)Cl)F)=O | C17H21ClF2N2O4
reactant | allyl iodide | 0.269 mmol, 0.025 mL | C(C=C)I | C3H5I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2S,3S,4S)-3-allyloxy-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)OCC=C)C(NCC1=C(C(=CC=C1)Cl)F)=O | C20H25ClF2N2O4
